US05155117
Under nitrogen, a solution of 94.1 g (0.55 mol) of 4-bromotoluene in 400 mL of anhydrous THF was treated with 14.5 g (0.60 mol) of magnesium turnings. The reaction was stirred at reflux for 2 h, cooled to -78° C., treated with a solution of 156 mL (1.38 mol) of trimethyl borate in 475 mL of THF, stirred for 1 h, and allowed to warm to ambient temperature. The reaction mixture was concentrated in vacuo and partitioned between aqueous base and methylene chloride. The pH of the aqueous phase was adjusted to one with hydrochloric acid and extracted with methylene chloride. The organic phase was dried (MgSO4) and concentrated in vacuo to give 4-tolylboronic acid: NMR (CDCl3)δ2.45 (s, 3H), 7.31 (d, J=8 Hz, 2H), 8.13 (d, J=8 Hz, 2H).

reactant | 4-bromotoluene | 0.55 mol, 94.1 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | magnesium | 0.60 mol, 14.5 g | [Mg] | Mg
reactant | trimethyl borate | 1.38 mol, 156 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 475 mL | C1CCOC1 | C4H8O
product | 4-tolylboronic acid | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
